US05514811
1.45 Grams (10.9 mmol) of an N-chlorosuccinimide was added to a solution consisting of 1.91 g (10.4 mmol) of a 2-butyl-4,5-bis(hydroxymethyl) imidazole, 100 ml of ethanol and 40 ml of 1,4-dioxane maintained at room temperature. The mixture was reacted for 18 hours with stirring and, then, the solvent was distilled off under reduced pressure. The resulting reaction product was washed with water and was recrystallized from acetonitrile to obtain a pale yellowish scale-like crystalline 2-butyl-4- chloro-5-(hydroxymethyl) imidazole in an amount of 1.00 g (yield, 51%). Recrystallization was further effected with acetonitrile to obtain the milk-white crystalline compound in pure form.

reactant | N-chlorosuccinimide | 10.9 mmol | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2-butyl-4,5-bis(hydroxymethyl) imidazole | 10.4 mmol, 1.91 g | C(CCC)C=1NC(=C(N1)CO)CO | C9H16N2O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 2-butyl-4- chloro-5-(hydroxymethyl) imidazole | C(CCC)C=1NC(=C(N1)Cl)CO | C8H13ClN2O
